US09216999B2
rac-3-[(3R,4R)-4-Methyl-3-(pyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazin-1(2H,4H,7H)-yl)piperidin-1-yl]-3-oxopropanenitrile
rac-1-[(3R,4R)-4-Methylpiperidin-3-yl]-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine (21.2 mg, 0.0777 mmol) in N,N-dimethylformamide was stirred with cyanoacetic acid (15 mg, 0.18 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (67 mg, 0.18 mmol), N,N-diisopropylethylamine (44.9 μL, 0.264 mmol) at room temperature for one day. After addition of water, the reaction mixture was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (Hi Flash column amino type manufactured by Yamazen Corporation: chloroform/methanol=20/1 (v/v)) to give the title compound as a yellow oil (3 mg, yield 10%).

reactant | rac-1-[(3R,4R)-4-Methylpiperidin-3-yl]-1,2,4,7-tetrahydropyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazine | 0.0777 mmol, 21.2 mg | C[C@H]1[C@H](CNCC1)N1COCC2=C1C1=C(N=C2)NC=C1 | C15H20N4O
reactant | cyanoacetic acid | 0.18 mmol, 15 mg | C(#N)CC(=O)O | C3H3NO2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.18 mmol, 67 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.264 mmol, 44.9 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | water | O | H2O
product | rac-3-[(3R,4R)-4-Methyl-3-(pyrrolo[3′,2′:5,6]pyrido[4,3-d][1,3]oxazin-1(2H,4H,7H)-yl)piperidin-1-yl]-3-oxopropanenitrile | 3 mg, yield 10% | C[C@H]1[C@H](CN(CC1)C(CC#N)=O)N1COCC2=C1C1=C(N=C2)NC=C1 | C18H21N5O2
